US08304557B2
N-{6-[3-(pyridin-2-ylamino)phenoxy]imidazo[1,2-a]pyridin-2-yl}cyclopropanecarboxamide
A mixture of N-[6-(3-aminophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (19.7 mg, 0.064 mmol), 2-bromopyridine (15.4 mg, 0.098 mmol), tris(dibenzylideneacetone)2 palladium(0) (6.1 mg, 0.007 mmol), 5-bis(diphenylphosphino)-9,9-dimethylxanthene (3.9 mg, 0.007 mmol), potassium t-butoxide (18.1 mg, 0.161 mmol) and toluene (4.0 mL) was stirred at 120° C. for 15 hr. The reaction mixture was diluted with aqueous sodium bicarbonate solution and extracted with ethyl acetate. The organic layer was concentrated, and the residue was purified by preparative HPLC to give the title compound (9.9 mg, 40%).

reactant | N-[6-(3-aminophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.064 mmol, 19.7 mg | NC=1C=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=CC1 | C17H16N4O2
reactant | 2-bromopyridine | 0.098 mmol, 15.4 mg | BrC1=NC=CC=C1 | C5H4BrN
reactant | potassium t-butoxide | 0.161 mmol, 18.1 mg | CC(C)([O-])C.[K+]
reactant | toluene | 4.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N-{6-[3-(pyridin-2-ylamino)phenoxy]imidazo[1,2-a]pyridin-2-yl}cyclopropanecarboxamide | 9.9 mg, 40% | N1=C(C=CC=C1)NC=1C=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=CC1 | C22H19N5O2
